US05314918
(a) Ethyl 7-((dimethylamino)thioxomethoxy)-4-oxo-8-propyl-4H-1-benzopyran-2-carboxylate
Ethyl 7-hydroxy-4-oxo-8-n-propyl-4H-1-benzopyran-2-carboxylate (1 g) in anhydrous dimethylformamide (4 ml) is cooled to 0° and treated under nitrogen with sodium hydride (50% dispersion in mineral oil, 180 mg) with stirring for 30 minutes. Dimethylaminothiocarbamylchloride (465 mg) is added and the mixture is stirred 15 minutes at 0°, warmed to 80° and maintained as such for 18 hours. The mixture is cooled, diluted with methylene chloride (50 ml) and washed with water (3×100 ml)), dried over sodium sulfate and reduced to dryness in vacuo. The residue is recrystallized from ethyl acetate and hexane to yield the title compound.

reactant | Ethyl 7-hydroxy-4-oxo-8-n-propyl-4H-1-benzopyran-2-carboxylate | 1 g | OC1=C(C2=C(C(C=C(O2)C(=O)OCC)=O)C=C1)CCC | C15H16O5
reactant | sodium hydride | 180 mg | [H-].[Na+]
reactant | Dimethylaminothiocarbamylchloride | 465 mg | CN(C)NC(=S)Cl | C3H7ClN2S
reactant | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | Ethyl 7-((dimethylamino)thioxomethoxy)-4-oxo-8-propyl-4H-1-benzopyran-2-carboxylate | CN(C)C(OC1=C(C2=C(C(C=C(O2)C(=O)OCC)=O)C=C1)CCC)=S | C18H21NO5S
